US09120994B2
The amine-H4PO3 catalyst (2.0 g, 1 w/w %) prepared by mixing orthophosphoric acid (85%) with triethanolamine (in 1:1 equivalent) was dissolved in acetic acid (4 ml, 2 ml/w %) and added to a mixture of 1,1-dimethoxy-2-methylpent-2-ene (200 g, 1.52 mol) and 3-methyl-but-2-en-1-ol (131 g, 1.52 mol). The mixture was heated to 110° C. for 2 h, then at 160° C. for further 4 h. During this period, volatile materials were collected through a 10 cm Vigreux column. The remaining oil was distilled in vacuo to give 2,4,7-trimethylocta-2,6-dienal (66%).

reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | triethanolamine | 1 equivalent | N(CCO)(CCO)CCO | C6H15NO3
reactant | 1,1-dimethoxy-2-methylpent-2-ene | 1.52 mol, 200 g | COC(C(=CCC)C)OC | C8H16O2
reactant | 3-methyl-but-2-en-1-ol | 1.52 mol, 131 g | CC(=CCO)C | C5H10O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 2,4,7-trimethylocta-2,6-dienal | 66% | CC(C=O)=CC(CC=C(C)C)C | C11H18O
